US06696110B1
A solution of boron tribromide (3.2 cm3) and dichloromethane (30 cm3) was added dropwise to a solution of 2-(4-methoxyphenyl)-5-pentylthiophene (10.0 g) and dichloromethane (70 cm3) at 0° C. under an atmosphere of nitrogen. The reaction solution was stirred overnight at room temperature and water (100 cm3) added. The organic layer was separated off and the aqueous layer extracted with dichloromethane (2×100 cm3). The combined organic layers were washed with brine (2×100 cm3) and then dried (MgSO4), filtered and evaporated down. The residue was purified by column chromatography on silica gel using a 4:1 hexane/dichloromethane mixture as eluent and recrystallisation from hexane to yield 7.7 g of g 2-(4-hydroxyphenyl)-5-pentylthiophene, K 100-102° C., I.

reactant | boron tribromide | 3.2 cm3 | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
reactant | 2-(4-methoxyphenyl)-5-pentylthiophene | 10.0 g | COC1=CC=C(C=C1)C=1SC(=CC1)CCCCC | C16H20OS
reactant | dichloromethane | 70 cm3 | ClCCl | CH2Cl2
solvent | water | 100 cm3 | O | H2O
product | 2-(4-hydroxyphenyl)-5-pentylthiophene | 7.7 g | OC1=CC=C(C=C1)C=1SC(=CC1)CCCCC | C15H18OS
